US05981560
N,O-Dimethyl-4-iodobenzenehydroxamic acid
A solution of pyridine (104 g, 1.32 mol) in dichloromethane (150 ml) was added dropwise to an ice-cooled, stirred suspension of 4-iodobenzoyl chloride (251 g, 0.94 mol) and N,O-dimethylhydroxylamine hydrochloride (97 g, 0.94 mol) in dichloromethane (850 ml). The mixture was allowed to warm to room temperature and then stirred for a further 18 hours. The resulting solution was evaporated under reduced pressure, the residue dissolved in ethyl acetate (1 l) and this solution then washed sequentially with hydrochloric acid (2M, 3×400 ml) and saturated aqueous sodium bicarbonate solution (300 ml), dried (Na2SO4) and evaporated under reduced pressure. The residue was purified by distillation under reduced pressure to give the title compound (241 g) as a yellow oil, b.p. 130° C./13,3 Pa (0.1 mm Hg). δ(CDCl3): 3.32(3H,s), 3.50(3H,s), 7.40(2H,d) 7.72(2H,d).

reactant | pyridine | 1.32 mol, 104 g | N1=CC=CC=C1 | C5H5N
reactant | 4-iodobenzoyl chloride | 0.94 mol, 251 g | IC1=CC=C(C(=O)Cl)C=C1 | C7H4ClIO
reactant | N,O-dimethylhydroxylamine hydrochloride | 0.94 mol, 97 g | Cl.CNOC
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 850 ml | ClCCl | CH2Cl2
product | N,O-Dimethyl-4-iodobenzenehydroxamic acid | 241 g | CN(OC)C(=O)C1=CC=C(C=C1)I | C9H10INO2
